US07678796B2
1-Methyl-6-oxo-1,6-dihydro-pyridazine-4-carboxylic acid ethyl ester
To a stirred solution of 6-oxo-1,6-dihydro-pyridazine-4-carboxylic acid ethyl ester (1.0 g, 5.9 mmol) in anhydrous DMF (15 mL) was added potassium carbonate (3.29 g, 23.8 mmol). The reaction mixture was cooled to 0° C. and methyl iodide (1.0 mL, 16 mmol) was added dropwise. The reaction mixture was allowed to reach room temperature and was then heated at 60° C. for 15 minutes. The reaction was cooled to below 0° C. and ethyl acetate and water were added. The organic layer was separated, washed with cold water and brine, dried over anhydrous sodium sulfate and concentrated. The residue was purified by RP-HPLC using a linear gradient of acetonitrile in 0.1 M ammonium acetate buffer to afford the title compound (712 mg, 66%).

reactant | 6-oxo-1,6-dihydro-pyridazine-4-carboxylic acid ethyl ester | 5.9 mmol, 1.0 g | C(C)OC(=O)C=1C=NNC(C1)=O | C7H8N2O3
reactant | potassium carbonate | 23.8 mmol, 3.29 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 16 mmol, 1.0 mL | CI | CH3I
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-Methyl-6-oxo-1,6-dihydro-pyridazine-4-carboxylic acid ethyl ester | 712 mg, 66% | C(C)OC(=O)C=1C=NN(C(C1)=O)C | C8H10N2O3
